US07629362B2
Manufacture of 3,6-bis-(pyridine-2-yl-sulfanyl)-N-(4-methyl-thiazole-2-yl)-2-pyridine carboxamide
2-Mercaptopyridine (24 mg; 0.205 mmol) and 68 g (0.492 mmol) of potassium carbonate were added to a solution (2 ml) of 3,6-dichloro-N-(4-methyl-thiazole-2-yl)-2-pyridine carboxamide produced by the same method as in Production Example 1 in N,N-dimethylformamide followed by stirring at 100° C. for 15 hours. Water was added to the reaction solution followed by extracting with ethyl acetate and washing with a saturated aqueous saline solution. After drying and concentrating, the resulting residue was purified by a thin-layer silica gel chromatography (chloroform:methanol=20:1) to give 15 mg (yield: 23%) of the title compound as a yellow solid.

reactant | 2-Mercaptopyridine | 0.205 mmol, 24 mg | SC1=NC=CC=C1 | C5H5NS
reactant | potassium carbonate | 0.492 mmol, 68 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3,6-dichloro-N-(4-methyl-thiazole-2-yl)-2-pyridine carboxamide | 2 ml | ClC=1C(=NC(=CC1)Cl)C(=O)NC=1SC=C(N1)C | C10H7Cl2N3OS
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 3,6-bis-(pyridine-2-yl-sulfanyl)-N-(4-methyl-thiazole-2-yl)-2-pyridine carboxamide | 15 mg, yield: 23% | N1=C(C=CC=C1)SC=1C(=NC(=CC1)SC1=NC=CC=C1)C(=O)NC=1SC=C(N1)C | C20H15N5OS3
